US04652304
2-(Azetidin-1-ylsulfonyl)-N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]benzenesulfonamide
In a dry flask under nitrogen was placed 1.20 gram of 2-(azetidin-1-ylsulfonyl)benzenesulfonamide, 50 ml of dry dichloromethane and 2.48 ml of 2M trimethylaluminum in toluene. To this was added 0.885 g of 4,6-dimethoxy-1,3,5-triazin-2-ylcarbamic acid methyl ester and the resultant solution was heated to reflux for 12 hours. The solution was washed with 50 ml of a water/acetic acid/1N HCl solution (40:10:0.4). The organic fraction was concentrated and chromatographed on silica gel (ethyl acetate/methylene chloride (15:85)). The slower moving portions were collected, treated with ethyl acetate and dried to give 0.45 g of a solid, m.p. 175°-177° C.

reactant | 2-(azetidin-1-ylsulfonyl)benzenesulfonamide | 1.20 gram | N1(CCC1)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N | C9H12N2O4S2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | trimethylaluminum | 2M, 2.48 ml | C[Al](C)C
reactant | 4,6-dimethoxy-1,3,5-triazin-2-ylcarbamic acid methyl ester | 0.885 g | COC(NC1=NC(=NC(=N1)OC)OC)=O | C7H10N4O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(Azetidin-1-ylsulfonyl)-N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]benzenesulfonamide | 0.45 g | N1(CCC1)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)OC | C15H18N6O7S2
